US07932279B2
5% Pd/C (30 mg) was wetted carefully with methanol under nitrogen in a 25 ml round flask, then a solution of 5-(4,6-bis-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-3-yl)-1-phenethyl-1H-tetrazole (100 mg, 0.16 mmol) in methanol (10 ml) was added. The reaction flask was vacuumed and filled with hydrogen three times. The reaction was then stiffed under hydrogen at r.t. overnight. After filtering the catalyst over celite, the filtrate was concentrated to give 5′-isopropyl-2′-methoxy-5-(1-phenethyl-1H-tetrazol-5-yl)-biphenyl-2,4-diol (44 mg, 63%). M.p.: 206-209° C.; 400 MHz 1H NMR (DMSO-d) δ: 10.22 (s, 1H), 9.64 (s, 1H), 7.19-7.08 (m, 4H), 7.02-6.97 (m, 3H), 6.94 (d, J=8.4 Hz, 1H), 6.75 (s, 1H), 6.61 (s, 1H), 4.55 (t, J=7.2 Hz, 2H), 3.66 (s, 3H), 3.11 (t, J=7.2 Hz, 2H), 2.90-2.81 (m, 1H), 1.20 (d, J=7.2 Hz, 6H); LCMS: 431 [M+H].

reactant | 5-(4,6-bis-benzyloxy-5′-isopropyl-2′-methoxy-biphenyl-3-yl)-1-phenethyl-1H-tetrazole | 0.16 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C1=C(C=CC(=C1)C(C)C)OC)C1=NN=NN1CCC1=CC=CC=C1 | C39H38N4O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 5′-isopropyl-2′-methoxy-5-(1-phenethyl-1H-tetrazol-5-yl)-biphenyl-2,4-diol | 44 mg, 63% | C(C)(C)C=1C=CC(=C(C1)C=1C(=CC(=C(C1)C1=NN=NN1CCC1=CC=CC=C1)O)O)OC | C25H26N4O3
